US06911463B2
NaH (180 mg of 60% oil dispersion, 4.5 mmol) is added to a solution of dibenzyl-[2-(5,7-difluoro-1H-indol-3-yl)-1(R)-methyl-ethyl]-amine (1.4 g, 3.6 mmol) in 20 ml dimethylformamide under N2 at 0° C. The resulting mixture is stirred for 20 minutes, then is allowed to warm to room temperature over 20 minutes. A 5 ml solution of iodomethane in dimethylformamide (7.2 mmol) is added dropwise and the reaction mixture is stirred for 1 hour. The reaction is quenched with cold aqueous NaHCO3, xtracted with ethyl acetate, washed with brine, dried (Na2SO4), filtered, concentrated and is purified by flash chromatography (SiO2, ethyl acetate/hexane gradient) to yield 1.3 g of dibenzyl-[2-(5,7-difluoro-1-methyl-1H-indol-3-yl)-1 (R)-methyl-ethyl]-amine (89%).

reactant | NaH | 4.5 mmol, 180 mg | [H-].[Na+]
reactant | dibenzyl-[2-(5,7-difluoro-1H-indol-3-yl)-1(R)-methyl-ethyl]-amine | 3.6 mmol, 1.4 g | C(C1=CC=CC=C1)N([C@@H](CC1=CNC2=C(C=C(C=C12)F)F)C)CC1=CC=CC=C1 | C25H24F2N2
reactant | iodomethane | IC | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 7.2 mmol | CN(C=O)C | C3H7NO
product | dibenzyl-[2-(5,7-difluoro-1-methyl-1H-indol-3-yl)-1 (R)-methyl-ethyl]-amine | 1.3 g, 89% | C(C1=CC=CC=C1)N([C@@H](CC1=CN(C2=C(C=C(C=C12)F)F)C)C)CC1=CC=CC=C1 | C26H26F2N2
